US04584383
1-Benzyl-2-mercapto-5-hydroxymethyl-imidazole (7.5 g) is added in small portions to a mixture of water (18 ml) and concentrated nitric acid (7.5 g) at 35° C. The mixture is stirred for 3 hours and the pH of the reaction mixture adjusted to 9-10 with sodium hydroxide. 1-Benzyl-5-hydroxymethyl-imidazole is obtained, 3.8 g (60%), m.p. 131°-135° C.

reactant | 1-Benzyl-2-mercapto-5-hydroxymethyl-imidazole | 7.5 g | C(C1=CC=CC=C1)N1C(=NC=C1CO)S | C11H12N2OS
reactant | nitric acid | 7.5 g | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 18 ml | O | H2O
product | 1-Benzyl-5-hydroxymethyl-imidazole | C(C1=CC=CC=C1)N1C=NC=C1CO | C11H12N2O
